US09388149B2
11 ml (205 mmol; 1.20 V) of sulfuric acid and 11 ml of water were added dropwise to a solution of 9.12 g (28.8 mmol; 1.0 eq) of 2-tert-butyl-6-chlorobenzooxazole-7-sulfonic acid dimethylamide in 41 ml of 1,4-dioxane. The reaction medium was refluxed for six and a half hours. The reaction medium was concentrated and 440 ml of 1 N sodium hydroxide were added (pH at 8). The solution was extracted with ethyl acetate. The organic phases were combined, dried over magnesium sulfate, filtered and evaporated. 6.94 g of 3-amino-6-chloro-2-hydroxy-N,N-dimethylbenzenesulfonamide were obtained in the form of a brown solid. Yield=96%.

reactant | sulfuric acid | 205 mmol, 11 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 11 ml | O | H2O
reactant | 2-tert-butyl-6-chlorobenzooxazole-7-sulfonic acid dimethylamide | 28.8 mmol, 9.12 g, 1.0 eq | CN(S(=O)(=O)C1=C(C=CC=2N=C(OC21)C(C)(C)C)Cl)C | C13H17ClN2O3S
solvent | 1,4-dioxane | 41 ml | O1CCOCC1 | C4H8O2
product | 3-amino-6-chloro-2-hydroxy-N,N-dimethylbenzenesulfonamide | 6.94 g, Yield=96% | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N(C)C)O | C8H11ClN2O3S
